US08912227B1
A mixture of ethyl 2-((4-chlorophenyl)amino)acetate (10.0 g, 46.8 mmol) and (E)-4-ethoxy-1,1,1-trifluorobut-3-en-2-one (11.0 g, 65.5 mmol) in DCM (150 mL) was heated overnight at 50° C. The resulting mixture was concentrated and then triturated with 20% EtOAc/heptane and the resulting solid filtered and washed with heptane to yield (E)-ethyl 2-((4-chlorophenyl)(4,4,4-trifluoro-3-oxobut-1-en-1-yl)amino)acetate.

reactant | ethyl 2-((4-chlorophenyl)amino)acetate | 46.8 mmol, 10.0 g | ClC1=CC=C(C=C1)NCC(=O)OCC | C10H12ClNO2
reactant | (E)-4-ethoxy-1,1,1-trifluorobut-3-en-2-one | 65.5 mmol, 11.0 g | C(C)O/C=C/C(C(F)(F)F)=O | C6H7F3O2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | (E)-ethyl 2-((4-chlorophenyl)(4,4,4-trifluoro-3-oxobut-1-en-1-yl)amino)acetate | ClC1=CC=C(C=C1)N(CC(=O)OCC)\C=C\C(C(F)(F)F)=O | C14H13ClF3NO3
